US07645789B2
A solution of N-(2-(3,3-dimethylbut-1-ynyl)-5-fluoro-4-nitrophenyl)butyramide (500 mg, 1.63 mmol) and t-BuOK (0.37 g, 3.26 mmol) in DMF (10 mL) was heated at 70° C. for 2 h. The mixture was poured into water and then extracted with EtOAc (50 mL×3). The combined extracts were washed with water (50 mL) and brine (50 mL), dried over Na2SO4 and concentrated under reduced pressure to give 6-tert-butoxy-2-tert-butyl-5-nitro-1H-indole (100 mg, 21%). 1H-NMR (300 MHz, DMSO-d6) δ 11.35 (brs, 1H), 7.99 (s, 1H), 7.08 (s, 1H), 6.25 (s, 1H), 1.34 (s, 9H), 1.30 (s, 9H).

reactant | N-(2-(3,3-dimethylbut-1-ynyl)-5-fluoro-4-nitrophenyl)butyramide | 1.63 mmol, 500 mg | CC(C#CC1=C(C=C(C(=C1)[N+](=O)[O-])F)NC(CCC)=O)(C)C | C16H19FN2O3
reactant | t-BuOK | 3.26 mmol, 0.37 g | CC(C)(C)[O-].[K+]
reactant | water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 6-tert-butoxy-2-tert-butyl-5-nitro-1H-indole | 100 mg, 21% | C(C)(C)(C)OC1=C(C=C2C=C(NC2=C1)C(C)(C)C)[N+](=O)[O-] | C16H22N2O3
